US04421758
50 mg of 55% sodium hydride were added to a solution of 193 mg of 4-chlorobenzyl alcohol in 1 ml of dimethylformamide, and the mixture was stirred at room temperature for 30 minutes. A solution of 326 mg of 2-tosyloxymethyl-3,4-dihydro-2H-pyran in 2 ml of dimethylformamide was then added and the resulting mixture was allowed to react at 90° C. for 4 hours. The mixture was then treated and the product purified essentially as described in Example 34(a), to give 82 mg of 2-(4-chlorobenzyloxymethyl)-3,4-dihydro-2H-pyran, as a colourless oil.

reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 4-chlorobenzyl alcohol | 193 mg | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 326 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyloxymethyl)-3,4-dihydro-2H-pyran | 82 mg | ClC1=CC=C(COCC2OC=CCC2)C=C1 | C13H15ClO2
